US04367238
Acetic anhydride (5 ml) was added to 2-[2-hydroxy-3-(o-tolyloxy)phenyl]-n-nonanoic acid (4.3 g), and the mixture was refluxed under heating for 10 minutes and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 60 g, benzene) to give 3-(n-heptyl)-7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one (3.0 g).

reactant | Acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[2-hydroxy-3-(o-tolyloxy)phenyl]-n-nonanoic acid | 4.3 g | OC1=C(C=CC=C1OC1=C(C=CC=C1)C)C(C(=O)O)CCCCCCC | C22H28O4
product | 3-(n-heptyl)-7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one | 3.0 g | C(CCCCCC)C1C(OC2=C1C=CC=C2OC2=C(C=CC=C2)C)=O | C22H26O3
